US04968668
500 ml of toluene, 207 g of ground potassium carbonate, 8 g of potassium iodide, 7 g of 18-crown-6 and 209 g of diethyl methylmalonate were initially introduced into a 2 l four-necked flask. The mixture was heated to 85° C. with stirring. 141 g of 3-methylbenzyl chloride were added dropwise in the course of half an hour and the mixture was then stirred at 90° C. for 8 hours. After cooling, the salts were removed by repeatedly shaking with water and the organic layer was distilled. 184 g of diethyl 2-methyl-2-(3-methylbenzyl)-malonate were obtained at a boiling point of 120° C. and a pressure of about 0.02 mbar. For hydrolysis, the ester was boiled under reflux with stirring for 16 hours with 60 g of NaOH, 170 ml of water and a spatula tip-full of tetradecyltrimethylammonium bromide, ethanol which formed in the meantime being distilled off. The dicarboxylic acid was liberated by acidifying with hydrochloric acid, separated off and heated in xylene for 4 hours under reflux for decarboxylation. The monocarboxylic acid was then esterified with ethanol (p-toluenesulfonic acid as catalyst, cyclohexane as entraining agent for water). 115 g of ethyl 2-(3-methylbenzyl)-propionate (boiling point 70°-73° C. at 0.03 mbar) were obtained. For hydrogenation, 21 g of LiAlH4 were dissolved or suspended in 800 ml of tetrahydrofuran in a 2 l four-necked flask under nitrogen. A mixture of 110 g of ethyl 2-(3-methylbenzyl)-propionate and 100 ml of tetrahydrofuran were then added dropwise with ice cooling. The mixture was then decomposed with ice and hydrochloric acid, extracted with ether and dried over K2CO3, and 75 g of 2-methyl-3-(3-methylphenyl)propan-1-ol (boiling point 68°-70° C. at 0.1 mbar) were obtained by distillation.

reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | diethyl methylmalonate | 209 g | CC(C(=O)OCC)C(=O)OCC | C8H14O4
reactant | 3-methylbenzyl chloride | 141 g | CC=1C=C(CCl)C=CC1 | C8H9Cl
catalyst | potassium iodide | 8 g | [I-].[K+]
catalyst | 18-crown-6 | 7 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | diethyl 2-methyl-2-(3-methylbenzyl)-malonate | 184 g | CC(C(=O)OCC)(C(=O)OCC)CC1=CC(=CC=C1)C | C16H22O4
